US05241071
To 1.65 g (0.007 mole) of 4,4,4-trinitrobutyryl chloride in 15 mL of anhydrous diethyl ether stirred in a water bath at 15° C. was added 0.9 g (0.007 mole) of N-(trifluoroacetyl)hydrazine. Pyridine (0.6 mL, 0.007 mole) was added dropwise. After 3 minutes, dilute hydrochloric acid was added and the ether layer was separated and dried (Na2SO4). The volatiles were removed and the residue was stirred with water and then with CH2Cl2 to give the product N-(4,4,4-trinitrobutyryl)-N'-(trifluoroacetyl)hydrazine, 1.15 g (50%), mp 154°-156° C. Crystallization from 1,2-dichloroethane raised the melting point to 157°-159° C.; 1H NMR (acetone-d6 +D2O): 2.97 (t, 2H), 3.86 (t, 2H); IR (KBr): 3330, 3220 (NH), 1745, 1690 (C=O); 1610, 1590 (NO2); 1195 (C--F).

reactant | 4,4,4-trinitrobutyryl chloride | 0.007 mole, 1.65 g | [N+](=O)([O-])C(CCC(=O)Cl)([N+](=O)[O-])[N+](=O)[O-] | C4H4ClN3O7
reactant | N-(trifluoroacetyl)hydrazine | 0.007 mole, 0.9 g | FC(C(=O)NN)(F)F | C2H3F3N2O
reactant | Pyridine | 0.007 mole, 0.6 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | N-(4,4,4-trinitrobutyryl)-N'-(trifluoroacetyl)hydrazine | [N+](=O)([O-])C(CCC(=O)NNC(C(F)(F)F)=O)([N+](=O)[O-])[N+](=O)[O-] | C6H6F3N5O8
